US09062048B2
Step B: 8-Thiazol-5-yl-1,4-dioxa-spiro[4.5]decan-8-ol
The title compound was prepared as white solid from 8-(2-trimethylsilanyl-thiazol-5-yl)-1,4-dioxa-spiro[4.5]decan-8-ol followed by TBAF work-up.

reactant | 8-(2-trimethylsilanyl-thiazol-5-yl)-1,4-dioxa-spiro[4.5]decan-8-ol | C[Si](C=1SC(=CN1)C1(CCC2(OCCO2)CC1)O)(C)C | C14H23NO3SSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 8-Thiazol-5-yl-1,4-dioxa-spiro[4.5]decan-8-ol | S1C=NC=C1C1(CCC2(OCCO2)CC1)O | C11H15NO3S
